US07612075B2
A solution of 2-[4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-2-oxo-piperazin-1-ylmethyl]-thiazol-4-yl-carboxylic acid ethyl ester (75 mg, 0.15 mmol) is dissolved in THF/MeOH −3:1 (2 mL) and a solution of 1N NaOH is added (0.5 mL). The reaction is stirred for 2 h and then diluted with EtOAc and washed with 2N HCl. The organic phase is dried (MgSO4) and concentrated to yield 2-[4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-2-oxo-piperazin-1-ylmethyl]-thiazol-4-yl-carboxylic acid. 1H NMR (300 MHz, DMSO-d6) δ 8.32 (d, 1H), 8.26 (s, 1H), 8.18 (s, 1H), 8.04 (d, 1H), 7.57 (dd, 1H), 4.74 (s, 2H), 3.87 (s, 2H), 3.49 (s, 4H); MS (Ion Spray) 471 (M)+.

reactant | 2-[4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-2-oxo-piperazin-1-ylmethyl]-thiazol-4-yl-carboxylic acid ethyl ester | 0.15 mmol, 75 mg | C(C)OC(=O)C=1N=C(SC1)CN1C(CN(CC1)S(=O)(=O)C1=CC2=C(S1)C=C(C=C2)Cl)=O | C19H18ClN3O5S3
reactant | NaOH | 1N | [OH-].[Na+]
solvent | THF MeOH | 2 mL | C1CCOC1.CO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-[4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-2-oxo-piperazin-1-ylmethyl]-thiazol-4-yl-carboxylic acid | ClC=1C=CC2=C(SC(=C2)S(=O)(=O)N2CC(N(CC2)CC=2SC=C(N2)C(=O)O)=O)C1 | C17H14ClN3O5S3
